US09403818B2
Preparation of methyl 8-(4-amino-2,5-difluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-amino-2,5-difluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (500 mg, 1.71 mmol) and 2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline (667 mg, 2.06 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (500 mg, 75%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 1.71 mmol, 500 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline | 2.06 mmol, 667 mg | FC1=C(N)C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F | C12H16BF2NO2
product | methyl 8-(4-amino-2,5-difluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 500 mg, 75% | NC1=CC(=C(C=C1F)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)F | C21H18F2N2O3
